US07598383B2
Step D: Preparation of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester:
Hydrobromic acid (5.82 mL, 51.5 mmol) was added to a mixture of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-methoxy-nicotinic acid methyl ester (0.64 g, 1.72 mmol) and acetic acid (5.9 mL, 103 mmol). The reaction mixture was stirred at 90° C. for 20 minutes and then cooled to room temperature. After water was added to the mixture, a white precipitate formed. The white solid was collected by filtered and washed with water and diethyl ether to yield 0.60 g (97%) clean desired product.

reactant | Hydrobromic acid | 51.5 mmol, 5.82 mL | Br | BrH
reactant | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-methoxy-nicotinic acid methyl ester | 1.72 mmol, 0.64 g | COC(C1=CN=C(C(=C1NC1=C(C=C(C=C1)Br)F)F)OC)=O | C14H11BrF2N2O3
reactant | acetic acid | 103 mmol, 5.9 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | 0.60 g, 97% | COC(=O)C1=CNC(C(=C1NC1=C(C=C(C=C1)Br)F)F)=O | C13H9BrF2N2O3
